US08455475B2
(R)-Methyl 3-(tert-butoxycarbonylamino)-2,3-dihydro-1H-indene-5-carboxylate
A solution of (R)-tert-butyl 6-bromo-2,3-dihydro-1H-inden-1-ylcarbamate (15.0 g, 48.07 mmol, 1.0 eq.) in a mixture of MeOH (200 ml) and DMSO (30 ml) was degassed with argon for 30 min followed by addition of palladium acetate (0.53 g, 2.40 mmol, 0.05 eq.), 1,3-bis(diphenylphosphino)propane (0.99 g, 2.40 mmol, 0.05 eq.) and TEA (20 ml, 144.21 mmol, 3.0 eq.). The reaction mixture was then sealed in an autoclave using CO pressure (80 psi) and heated at 75° C. for 16 h. The mixture was evaporated to dryness, diluted with water (150 ml) and extracted with ethyl acetate (2×300 ml). The combined organic layers were washed with brine (100 ml), dried over anhydrous Na2SO4 and evaporated to give the crude product which was purified by column chromatography (silica gel; 5% ethyl acetate/hexanes) to yield the desired product as a white solid. Yield: 76% (10.6 g, 36.43 mmol).

reactant | (R)-tert-butyl 6-bromo-2,3-dihydro-1H-inden-1-ylcarbamate | 48.07 mmol, 15.0 g, 1.0 eq. | BrC1=CC=C2CC[C@H](C2=C1)NC(OC(C)(C)C)=O | C14H18BrNO2
reactant | 1,3-bis(diphenylphosphino)propane | 2.40 mmol, 0.99 g, 0.05 eq. | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
solvent | MeOH | 200 ml | CO | CH4O
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
catalyst | palladium acetate | 2.40 mmol, 0.53 g, 0.05 eq. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (R)-Methyl 3-(tert-butoxycarbonylamino)-2,3-dihydro-1H-indene-5-carboxylate | Yield: 76% | C(C)(C)(C)OC(=O)N[C@@H]1CCC2=CC=C(C=C12)C(=O)OC | C16H21NO4
